US04090862
62 ml (0.85 mole) of thionyl chloride were added to 167 g (0.775 mole) of N-methoxymethylcarbamic acid 3-chlorophenyl ester in 200 ml of carbon tetrachloride. After the evolution of gas had ceased, the mixture was cooled to 0° C, while keeping the reaction mixture stirrable by adding carbon tetrachloride. The precipitate which had separated out was filtered off, rinsed with cold carbon tetrachloride and dried in vacuo at 40° C. 119.5 g (70% of theory) of N-chloromethylcarbamic acid 3-chlorophenyl ester of melting point 90° C were obtained.

reactant | thionyl chloride | 0.85 mole, 62 ml | S(=O)(Cl)Cl | Cl2OS
reactant | N-methoxymethylcarbamic acid 3-chlorophenyl ester | 0.775 mole, 167 g | ClC=1C=C(C=CC1)OC(NCOC)=O | C9H10ClNO3
solvent | carbon tetrachloride | 200 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | N-chloromethylcarbamic acid 3-chlorophenyl ester | 119.5 g, 70% | ClC=1C=C(C=CC1)OC(NCCl)=O | C8H7Cl2NO2
